US06340681B1
1-(1-Cyclobutylmethyl-4-piperidinyl)-2-(4-methylpiperazinyl)-1H-benzimidazole
A mixture of 2-(4-methylpiperazinyl)-1-(4-piperidinyl)-1H-benzimidazole (300 mg, 1 mmol), K2CO3 (165.9 mg, 1.2 mmol), and (bromomethyl)cyclobutane (178.8 mg, 1.2 mmol) in DMF (4 ml) was stirred at room temperature for 17 h. Then K2CO3 (110 mg, 0.8 mmol), and (bromomethyl)cyclobutane (119 mg, 0.8 mmol) were added to the reaction mixture. After 16 h stirring, the reaction mixture was poured into water and extracted with CH2Cl2. The extracts combined were dried (MgSO4), filtered, and concentrated in vacuo to give 369 mg of oil which was purified by preparative TLC (1 mm thick plate, CH2Cl2/MeOH:10/12 developped) to afford 147.6 mg (40%) of title compound as light brown solid.

reactant | 2-(4-methylpiperazinyl)-1-(4-piperidinyl)-1H-benzimidazole | 1 mmol, 300 mg | CN1CCN(CC1)C1=NC2=C(N1C1CCNCC1)C=CC=C2 | C17H25N5
reactant | K2CO3 | 1.2 mmol, 165.9 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)cyclobutane | 1.2 mmol, 178.8 mg | BrCC1CCC1 | C5H9Br
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)cyclobutane | 0.8 mmol, 119 mg | BrCC1CCC1 | C5H9Br
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(1-Cyclobutylmethyl-4-piperidinyl)-2-(4-methylpiperazinyl)-1H-benzimidazole | 369 mg | C1(CCC1)CN1CCC(CC1)N1C(=NC2=C1C=CC=C2)N2CCN(CC2)C | C22H33N5
